US07807673B2
Step C: N-{3-[3-(2-Chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,2,2-trifluoroacetamide
N-[3-(2-Chloro-pyrimidin-4-ylethenyl)-phenyl]-2,2,2-trifluoro-acetamide (9.14 g, 28.1 mmol), N-aminopyridinium iodide (6.24 g, 28.1 mmol), KOH (1.57 g, 28.9 mmol) and K2CO3 (7.76 g) were stirred in DMSO (175 mL) until all starting material was consumed by LC/MS analysis. Reaction was poured into water to yield a precipitate which was filtered off, washed well with water and dried. Crude product was triturated in EtOAc and filtered to yield 7.45 g of the title compound, Rf=0.2 (2:1 Hexanes/EtOAc).

reactant | N-[3-(2-Chloro-pyrimidin-4-ylethenyl)-phenyl]-2,2,2-trifluoro-acetamide | 28.1 mmol, 9.14 g | ClC1=NC=CC(=N1)C=CC=1C=C(C=CC1)NC(C(F)(F)F)=O | C14H9ClF3N3O
reactant | N-aminopyridinium iodide | 28.1 mmol, 6.24 g | [I-].N[N+]1=CC=CC=C1
reactant | KOH | 28.9 mmol, 1.57 g | [OH-].[K+]
reactant | K2CO3 | 7.76 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 175 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-{3-[3-(2-Chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,2,2-trifluoroacetamide | 7.45 g | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C(F)(F)F)=O | C19H11ClF3N5O
